US08609897B2
4-fluoro-1-(trifluoromethyl)-2-({[4-(trifluoromethyl)phenyl]sulfonyl}methyl)benzene
Sodium sulfite (102 g, 809 mmol) was added to sodium phosphate, dibasic (58 g, 409 mmol) and water (550 ml). 4-(trifluoromethyl)benzenesulfonyl chloride (100 g, 409 mmol) and dioxane (65 ml) were then added to the reaction mixture. The reaction was heated to reflux. After 75 min, the reaction was cooled slightly and a solution of 2-trifluoromethyl-5-fluoro-benzyl bromide (75 g, 292 mmol) in ethanol (95 ml) were added and the mixture was refluxed for 1 hr. The reaction was diluted with water (400 ml) and cooled to 0° C. for 1 hr. The reaction mixture was filtered and the solid was washed with water (2×400 ml) and then with heptane (200 ml). The residue was dried under vacuum to a constant weight and carried to the next step without further purification.

reactant | Sodium sulfite | 809 mmol, 102 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 409 mmol, 100 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 2-trifluoromethyl-5-fluoro-benzyl bromide | 292 mmol, 75 g | FC(C1=C(CBr)C=C(C=C1)F)(F)F | C8H5BrF4
solvent | ethanol | 95 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
solvent | water | 550 ml | O | H2O
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
product | 4-fluoro-1-(trifluoromethyl)-2-({[4-(trifluoromethyl)phenyl]sulfonyl}methyl)benzene | FC1=CC(=C(C=C1)C(F)(F)F)CS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C15H9F7O2S
